US08461158B2
Reaction of N-[3-({2-(difluoromethyl)-1-[4-(4-morpholinyl)-6-(1-piperazinyl)-1,3,5-triazin-2-yl]-1H-benzimidazol-4-yl}oxy)propyl]-N,N-dimethylamine from the previous step with methanesulphonyl chloride and powdered K2CO3 in CH2Cl2, followed by chromatography on alumina eluting with CH2Cl2/EtOAc (1:1) g, and acidification with HCl in MeOH gave N-[3-({2-(difluoromethyl)-1-[4-{[1-(methylsulfonyl)-4-piperidinyl]oxy}-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1H-benzimidazol-4-yl}oxy)propyl]-N,N-dimethylamine hydrochloride in 71% yield: 1H NMR (DMSO-d6) δ 10.07 (br s, exchangeable with D2O, 1H), 7.99 (d, J=8.2 Hz, 1H), 7.73 (t, JHF=52.7 Hz, 1H), 7.46 (t, J=8.2 Hz, 1H), 7.02 (d, J=8.0 Hz, 1H), 5.27-5.21 (m, 1H), 4.34 (t, J=6.1 Hz, 2H), 3.86-3.85 (m, 4H), 3.74-3.71 (m, 4H), 3.44-3.38 (m, 2H), 3.20-3.14 2.93 (s, 3H), 2.82 (s, 6H), (m 2H), 2.28-2.26 (m, 2H), 2.15-2.10 (m, 2H); Anal. Calcd. for C26H29ClF2N8O5S.0.75 H2O: C, 47.3; H, 5.9; Cl, 5.4; N, 17.0. Found: C, 47.3; H, 5.8; Cl, 5.4; N, 17.0%.

reactant | N-[3-({2-(difluoromethyl)-1-[4-(4-morpholinyl)-6-(1-piperazinyl)-1,3,5-triazin-2-yl]-1H-benzimidazol-4-yl}oxy)propyl]-N,N-dimethylamine | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N1CCNCC1)C=CC=C2OCCCN(C)C)F | C24H33F2N9O2
reactant | methanesulphonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 EtOAc | C(Cl)Cl.CCOC(=O)C
product | N-[3-({2-(difluoromethyl)-1-[4-{[1-(methylsulfonyl)-4-piperidinyl]oxy}-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-1H-benzimidazol-4-yl}oxy)propyl]-N,N-dimethylamine hydrochloride | 71% yield | Cl.FC(C1=NC2=C(N1C1=NC(=NC(=N1)OC1CCN(CC1)S(=O)(=O)C)N1CCOCC1)C=CC=C2OCCCN(C)C)F | InChI=1S/C26H36F2N8O5S.ClH/c1-33(2)10-5-15-40-20-7-4-6-19-21(20)29-23(22(27)28)36(19)25-30-24(34-13-16-39-17-14-34)31-26(32-25)41-18-8-11-35(12-9-18)42(3,37)38;/h4,6-7,18,22H,5,8-17H2,1-3H3;1H
